US07163937B2
Preparation C3, Step 1: 2-tert-butylpyridine (2.00 g, 14.8 mmol, 1 eq.) was dissolved in HOAc (10 mL) and 30% hydrogen peroxide (1.68 mL, 14.8 mmol, 1 eq.) at room temperature then the reaction was refluxed for 20 hours. The reaction was stripped to obtain an amber oil which was dissolved in methylene chloride (10 mL) then dried over sodium sulfate and stripped to obtain 2-tert-butylpyridine-N-oxide (1.60 g) as an amber oil. Yield=71.5%. LCMS detects (M+H)+=152.09.

reactant | 2-tert-butylpyridine | 14.8 mmol, 2.00 g, 1 eq. | C(C)(C)(C)C1=NC=CC=C1 | C9H13N
reactant | hydrogen peroxide | 14.8 mmol, 1.68 mL, 1 eq. | OO | H2O2
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-tert-butylpyridine-N-oxide | 1.60 g, Yield=71.5% | C(C)(C)(C)C1=[N+](C=CC=C1)[O-] | C9H13NO
